US06734302B2
Phosgene (0.47 mL, 0.91 mmol, 1.93 M in toluene) was added to a stirred solution of {4-[4,5-bis-(4-chloro-phenyl)-4,5-dihydro-1H-imidazol-2-yl]-3-ethoxy-phenyl}-dimethyl-amine (83 mg, 0.18 mmol) and triethylamine (0.14 mL, 1 mmol) in THF (3 mL) at 0° C. over a period of 5 min. The mixture was stirred for 1 h and evaporated. The residue was dissolved in methylene chloride (2 mL) and added dropwise to a stirred solution of piperazine (0.239 g, 2.77 mmol) in methylene chloride (2 mL) at room temperature for 1 h. The mixture was diluted with aqueous sodium bicarbonate and extracted with methylene chloride. The organic extracts were washed with brine and dried over sodium sulfate. Evaporation of the solvents and chromatography of the residue over silica gel using 0-10% methanol in methylene chloride gave [4,5-bis-(4-chloro-phenyl)-2-(4-dimethylamino-2-ethoxy-phenyl)-4,5-dihydro-imidazol-1-yl]-piperazin-1-yl-methanone as a white foam (68 mg, 66%). HR-MS (ES, m/z) calculated for C30H34N5O2Cl2[(M+H)+]566.2084, observed 566.2088.

reactant | Phosgene | 0.91 mmol, 1.93 M, 0.47 mL | C(=O)(Cl)Cl | CCl2O
reactant | {4-[4,5-bis-(4-chloro-phenyl)-4,5-dihydro-1H-imidazol-2-yl]-3-ethoxy-phenyl}-dimethyl-amine | 0.18 mmol, 83 mg | ClC1=CC=C(C=C1)C1N=C(NC1C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)N(C)C)OCC | C25H25Cl2N3O
reactant | triethylamine | 1 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | piperazine | 2.77 mmol, 0.239 g | N1CCNCC1 | C4H10N2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | [4,5-bis-(4-chloro-phenyl)-2-(4-dimethylamino-2-ethoxy-phenyl)-4,5-dihydro-imidazol-1-yl]-piperazin-1-yl-methanone | 68 mg, 66% | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)N1CCNCC1)C1=C(C=C(C=C1)N(C)C)OCC | C30H33Cl2N5O2
